US07317033B2
a) N-(2-Amino-3-methylphenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and 3-methyl-1,2-diaminobenzene. Crystalline solid, m.p. 184-186° C.,

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 3-methyl-1,2-diaminobenzene | CC=1C(=C(C=CC1)N)N | C7H10N2
product | N-(2-Amino-3-methylphenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=CC=C1C)NC(=S)NC1=CSC=C1C | C13H15N3S2
